US07576215B2
4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZOIC ACID
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-formyl-benzoic acid methyl ester according to the procedure of Example 66. MS (ESI) m/z 527.

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4-formyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
product | 4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C31H21F3N2O3
